US08124629B2
Triethylamine (0.04 mL, 0.27 mmol) was added to a stirred mixture of {6-fluoro-4-[4-(piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid ethyl ester (0.10 g, 0.17 mmol) in acetonitrile (4 mL) at 0° C. and the reaction mixture was stirred for 15 minutes. Formaldehyde (0.02 mL, 0.83 mmol) and sodium cyanoborohydride (0.017 g, 0.27 mmol) were added to the reaction mixture at 0° C., then the mixture was stirred for another 15 minutes. The reaction mixture was neutralized to pH ˜7 by gradual addition of acetic acid. The reaction mixture was concentrated, and the residue was made alkaline by the addition of a 2.0 N aqueous solution of KOH. The resulting mixture was extracted with diethyl ether (2×15 mL). The combined organic layers were dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the crude product. Silica gel (100-200 mesh) column chromatography (4:1 ethyl acetate-hexanes) afforded 0.05 g (60%) of {6-fluoro-4-[4-(4-methyl-piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid ethyl ester as an off-white sticky solid. MS cald. for C26H27FN2O5S ([M+H]+) 499, obsd. 499.3.

reactant | Triethylamine | 0.27 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | {6-fluoro-4-[4-(piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid ethyl ester | 0.17 mmol, 0.10 g | C(C)OC(CC1=CC2=CC=C(C=C2C(=C1)C(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)=O)F)=O | C25H25FN2O5S
reactant | Formaldehyde | 0.83 mmol, 0.02 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 0.27 mmol, 0.017 g | C(#N)[BH3-].[Na+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | {6-fluoro-4-[4-(4-methyl-piperazine-1-sulfonyl)-benzoyl]-naphthalen-2-yl}-acetic acid ethyl ester | 0.05 g, 60% | C(C)OC(CC1=CC2=CC=C(C=C2C(=C1)C(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C)=O)F)=O | C26H27FN2O5S
